US04645841
Ethyl N-[3-(2-guanidino-4-thiazolyl)-phenyl]-carbamate hydrobromide
A mixture of 17.17 gm of ethyl N-[3-(2-bromoacetyl)-phenyl]-carbamate, 7.1 gm of amidinothiourea and 45 ml of ethanol was refluxed for 4 hours and then cooled to room temperature. The precipitate formed thereby was filtered off and washed with cold ethanol, yielding 22 gm of the title compound, m.p. 240°-2° C.

reactant | ethyl N-[3-(2-bromoacetyl)-phenyl]-carbamate | 17.17 gm | BrCC(=O)C=1C=C(C=CC1)NC(OCC)=O | C11H12BrNO3
reactant | amidinothiourea | 7.1 gm | C(N)(=N)NC(=S)N | C2H6N4S
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | Ethyl N-[3-(2-guanidino-4-thiazolyl)-phenyl]-carbamate hydrobromide | 22 gm | Br.N(C(=N)N)C=1SC=C(N1)C=1C=C(C=CC1)NC(OCC)=O | InChI=1S/C13H15N5O2S.BrH/c1-2-20-13(19)16-9-5-3-4-8(6-9)10-7-21-12(17-10)18-11(14)15;/h3-7H,2H2,1H3,(H,16,19)(H4,14,15,17,18);1H
